US07109222B2
Preparation of 5-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethylsulfanyl]-benzofuran-2-carboxylic acid methyl ester (compound 6E)
A mixture of 5-mercapto-benzofuran-2-carboxylic acid methyl ester (300 mg, 1.4 mmol) and 5-chloromethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole (550 mg, 1.9 mmol) was dissolved in 5 ml anhydrous acetonitrile followed by addition of cesium carbonate (700 mg, 2.1 mmol). The reaction was then stirred at 60° C. for 2 hours, filtered and concentrated in vacuo. Purification by flash column chromatography (gradient elution: 5% EtOAc/hexanes to 45% EtOAc/hexanes), gave the title compound (410 mg, 61%) as a pale yellow solid. M.p. 132–133° C.; IR (thin film) cm−1: 1173; 400 MHz 1H NMR (DMSO-d6) δ 7.95 (d, 2H, J=8.1 Hz), 7.79 (s, 1H), 7.74 (d, 2H, J=8.1 Hz), 7.65 (m, 2H), 7.51 (d, 1H, J=9.0 Hz), 4.44 (s, 2H), 3.82 (s, 3H); MS m/z 464 (M+1); Annl. Calc'd for C22H16F3N1O3S2 C, 57.01; H, 3.48; N, 3.02; found: C, 56.94; H, 3.44; N, 2.84.

reactant | 5-mercapto-benzofuran-2-carboxylic acid methyl ester | 1.4 mmol, 300 mg | COC(=O)C=1OC2=C(C1)C=C(C=C2)S | C10H8O3S
reactant | 5-chloromethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole | 1.9 mmol, 550 mg | ClCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C12H9ClF3NS
reactant | cesium carbonate | 2.1 mmol, 700 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 5-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethylsulfanyl]-benzofuran-2-carboxylic acid methyl ester | 410 mg, 61% | COC(=O)C=1OC2=C(C1)C=C(C=C2)SCC2=C(N=C(S2)C2=CC=C(C=C2)C(F)(F)F)C | C22H16F3NO3S2
